data/mechanism_extracts/ChinChemLett/10.1016_j.cclet.2025.110822.json
{"doi": "10.1016_j.cclet.2025.110822", "journal": "ChinChemLett", "is_review": false, "rxn_class_summary": "Electrochemical oxidative 2,1-difunctionalization (azolation/hydroxyazolation, diamination, oxoamination, fluoroamination) of alkenes using N-mesyl-1,2,3-triazole as triazole radical precursor and various nucleophiles", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of in situ generated NH-1,2,3-triazole (from hydrolysis of N-mesyl-triazole) to an N-centered triazolyl radical; concomitant cathodic reduction of protons evolves H2; the relayed C-radical is further anodically oxidized to a carbocation", "key_intermediates": [{"name": "N-mesyl-1,2,3-triazole (precursor A)", "smiles": "O=S(=O)(C)N1C=C(c2ccccc2)N=N1", "role": "reactive"}, {"name": "1H-1,2,3-triazole B (after hydrolysis)", "smiles": "c1cc(-c2cn[nH]n2)cc1", "role": "transient"}, {"name": "2H-1,2,3-triazole B' (major tautomer, controls N2-regioselectivity)", "smiles": null, "role": "reactive"}, {"name": "N-centered triazolyl radical C", "smiles": null, "role": "reactive"}, {"name": "C-centered benzylic radical E (after addition to alkene)", "smiles": null, "role": "transient"}, {"name": "benzylic carbocation F (after second anodic oxidation)", "smiles": null, "role": "reactive"}, {"name": "alkene radical cation (E', Path A, disfavored)", "smiles": null, "role": "off_pathway"}], "electron_flow": "N-mesyl-triazole hydrolyzes to NH-triazole (2H-tautomer dominant); the anode oxidizes the deprotonated triazole to an N-centered radical that adds to the alkene, generating a benzylic C-radical that is further oxidized at the anode to a carbocation, which is trapped by the nucleophile (H2O, ROH, NH3, AcOH, Py·HF); protons are reduced at the cathode to H2.", "rate_determining_step": "anodic oxidation of NH-1,2,3-triazole to the N-centered radical (CV onset ~2.18 V vs SCE, matching anode potential ~2.25 V)", "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction completely suppressed; no desired product formed"}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Reaction suppressed; BHT-triazolyl adduct 53 isolated in 76% yield, confirming triazole N-radical"}, {"name": "DMPO", "smiles": "CC1(C)CCC=[N+]1[O-]", "purpose": "intermediate_trap", "observation": "EPR signals (AN1=13.23 G, AN2=4.58 G, AH=14.70 G, g=2.0060) consistent with N-centered triazolyl radical spin adduct 53a"}, {"name": "(E)- and (Z)-β-methylstyrene 54", "smiles": "C/C=C/c1ccccc1", "purpose": "radical_clock", "observation": "Both stereoisomers gave product 55 with identical dr ~1:1, indicating a free carbocation intermediate trapped by water"}, {"name": "1H-1,2,3-triazole 56 / 2H-1,2,3-triazole 57", "smiles": null, "purpose": "intermediate_trap", "observation": "Both gave N2-selective product 4 in 81% and 78% yield, confirming NH-triazole as the key intermediate and 2H-tautomer as the productive form"}, {"name": "Michael addition test on alkenyl product 47", "smiles": null, "purpose": "other", "observation": "No product formed with any nucleophile, excluding nucleophile-first radical pathway"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "EPR", "cyclic_voltammetry", "isolation_of_intermediate", "radical_clock", "other"], "evidence_strength": "strong", "notes": "Two pathways were considered (Fig. 6): Path A invokes alkene radical cation (E') as the initial oxidized species followed by triazole radical/nucleophile addition; this is disfavored because alkene 2 has a higher oxidation potential than NH-triazole. Path B (favored) starts with anodic oxidation of NH-triazole to N-centered radical, addition to alkene, second anodic oxidation of the C-radical to a carbocation, and nucleophilic trapping. The 2H-tautomer (B') is responsible for the high N2-regioselectivity via steric effects. Reaction is highly sensitive to potential window (2.5 V optimal; <2.2 V gives only trace, >2.6 V gives decomposition on Pt)."}
